US06140332
Step 9.2: 6-(Naphth-2-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-ol
420 mg (1.5 mmol) of 2-amino-3-ethoxycarbonyl-5-(naphth-2-yl)-1H-pyrrole are stirred in 3 ml of formamide, 1.5 ml of DMF and 0.75 ml of formic acid at 150° C. for 22 hours. The reaction mixture is diluted with approximately 1 ml of isopropanol and filtered. Washing with ethanol, isopropanol and hexane yields the title compound; m.p.>300° C.; 1H-NMR (200 MHz, DMSO-d6): 12.2 (sb), 8.39 (s, 1H), 8.0 (m, 2H), 7.9 (m, 3H), 7.53 (m, 2H), 7.11 (s, 1H).

reactant | 2-amino-3-ethoxycarbonyl-5-(naphth-2-yl)-1H-pyrrole | 1.5 mmol, 420 mg | NC=1NC(=CC1C(=O)OCC)C1=CC2=CC=CC=C2C=C1 | C17H16N2O2
reactant | DMF | 1.5 ml | CN(C)C=O | C3H7NO
reactant | formic acid | 0.75 ml | C(=O)O | CH2O2
solvent | formamide | 3 ml | C(=O)N | CH3NO
solvent | isopropanol | approximately 1 ml | C(C)(C)O | C3H8O
product | 6-(Naphth-2-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-ol | C1=C(C=CC2=CC=CC=C12)C1=CC2=C(N=CN=C2O)N1 | C16H11N3O
